US06114361
Step F: (2R, 4S)-4-(4-Methoxyphenyl)-5-oxopyrrolidine-2-carboxylic acid benzyloxyamide
Hydrogen chloride gas was bubbled for 3 minutes through a solution of (3S, 5R)-5-benzyloxycarbamoyl-3-(4-methoxyphenyl)-2-oxopyrrolidine-1-carboxylic acid tert-butyl ester (270 mg, 0.61 mmol) in methylene chloride (40 mL). After stirring for an additional 10 minutes, the solvent was evaporated to leave a white foam. The title compound (169 mg, 80%) was isolated by flash chromatography (eluting with ethyl acetate) and recrystallization from a mixture of ethyl acetate and hexane.

reactant | Hydrogen chloride | Cl | ClH
reactant | (3S, 5R)-5-benzyloxycarbamoyl-3-(4-methoxyphenyl)-2-oxopyrrolidine-1-carboxylic acid tert-butyl ester | 0.61 mmol, 270 mg | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@@H]1C(NOCC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC)=O | C24H28N2O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | (2R, 4S)-4-(4-Methoxyphenyl)-5-oxopyrrolidine-2-carboxylic acid benzyloxyamide | 169 mg, 80% | C(C1=CC=CC=C1)ONC(=O)[C@@H]1NC([C@@H](C1)C1=CC=C(C=C1)OC)=O | C19H20N2O4
